US07968571B2
To a −20° C. solution of intermediate diisopropyl (4S,5S)-2-[(1E)-prop-1-enyl]-1,3-dioxolane-4,5-dicarboxylate (4.10 g, 14.32 mmol) in 60 mL hexanes was added 1M diethylzinc in hexanes (42.96 mL, 42.96 mmol). Diiodomethane (6.92 mL, 85.92 mmol) was added dropwise with vigorous stirring. After 1 h at −20° C., the reaction was refrigerated at −5° C. After 17 h at −5° C., the reaction was stirred at 0° C. for an additional 5 h and then quenched with cold saturated ammonium chloride solution (100 mL) and extracted with Et2O (100 mL×3). The combined organics were washed w/aqueous sodium thiosulfate (100 mL) and brine (100 mL), filtered, dried over Na2SO4, filtered again and concentrated in vacuo. Purification by normal phase chromatography (10->30% EtOAc/hexanes) yielded 3.85 g (89%) of diisopropyl (4S,5S)-2-[(1S,2S)-2-methylcyclopropyl]-1,3-dioxolane-4,5-dicarboxylate as a yellow oil. 1H NMR (CDCl3, 400 MHz) 5.12 (m, 2H); 4.78 (d, J=6.41 Hz, 1H); 4.66 (d, J=4.21 Hz, 1H); 4.57 (d, J=4.22 Hz, 1H); 1.30 (m, 12H); 1.09 (d, J=5.68 Hz, 3H); 0.94 (m, 2H); 0.67 (m, 1H); 0.39 (m, 1H); LC/MS [M+H]+=301.

reactant | diisopropyl (4S,5S)-2-[(1E)-prop-1-enyl]-1,3-dioxolane-4,5-dicarboxylate | 14.32 mmol, 4.10 g | C(=C\C)/C1O[C@@H]([C@H](O1)C(=O)OC(C)C)C(=O)OC(C)C | C14H22O6
reactant | diethylzinc | 1M | C(C)[Zn]CC
reactant | Diiodomethane | 85.92 mmol, 6.92 mL | ICI | CH2I2
product | diisopropyl (4S,5S)-2-[(1S,2S)-2-methylcyclopropyl]-1,3-dioxolane-4,5-dicarboxylate | 3.85 g, 89% | C[C@@H]1[C@H](C1)C1O[C@@H]([C@H](O1)C(=O)OC(C)C)C(=O)OC(C)C | C15H24O6
